US08956613B2
Preparation of 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(2-methoxyethyloxycarbonylamino)-pyrimidin-2-one (50).
Using Method A and 2-methoxyethyl chloroformate, gemcitabine hydrochloride was converted to 50 (white solid, 60% yield): 1H NMR (500 MHz, DMSO-d6) δ 10.92 (s, 1H), 8.25-8.27 (d, 1H), 7.11-7.13 (d, 1H), 6.30-6.32 (t, 1H), 6.18-6.22 (t, 1H), 5.32-5.35 (t, 1H), 4.23-4.26 (m, 2H), 4.13-4.22 (m, 1H), 3.86-3.90 (m, 1H), 3.78-3.81 (m, 1H), 3.62-3.66 (m, 1H), 3.54-3.57 (m, 2H), 3.32 (s, 3H).

reactant | 2-methoxyethyl chloroformate | ClC(=O)OCCOC | C4H7ClO3
reactant | gemcitabine hydrochloride | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl
product | 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(2-methoxyethyloxycarbonylamino)-pyrimidin-2-one | 60% yield | FC1([C@@H](O[C@@H]([C@H]1O)CO)N1C(N=C(C=C1)NC(=O)OCCOC)=O)F | C13H17F2N3O7
